US07795444B2
Preparation of ethyl-2-benzyl-3-[(S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)-ethylamino]-3-oxopropanoate (15):
To a solution of 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine hydrobromide, 3, (0.406 g, 1.13 mmol), 2-benzyl-3-ethoxy-3-oxopropanoic acid (0.277 g) and 1-hydroxybenzotriazole (HOBt) (0.191 g, 1.41 mmol) in DMF (10 mL) at 0°, is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (0.240 g, 1.25 mmol) followed by diisopropylethylamine (DIPEA) (0.306 g). The mixture is stirred at 0° C. for 30 minutes then at room temperature overnight. The reaction mixture is diluted with water and extracted with EtOAc. The combined organic phase is washed with 1 N aqueous HCl, 5% aqueous NaHCO3, water and brine, and dried over Na2SO4. The solvent is removed in vacuo to afford 0.169 g (31% yield) of the desired product which is used without further purification.

reactant | 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine hydrobromide | Br.C(C)C=1N=C(SC1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N
reactant | 2-benzyl-3-ethoxy-3-oxopropanoic acid | 1.13 mmol, 0.406 g | C(C1=CC=CC=C1)C(C(=O)O)C(=O)OCC | C12H14O4
reactant | 1-hydroxybenzotriazole | 1.41 mmol, 0.191 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.25 mmol, 0.240 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | diisopropylethylamine | 0.306 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl-2-benzyl-3-[(S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)-ethylamino]-3-oxopropanoate | 0.169 g, 31% yield | C(C)OC(C(C(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C=1SC=C(N1)CC)CC1=CC=CC=C1)=O | C25H27N3O5S
